US07632832B2
N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-4-(2-oxo-4-pyridin-4-ylimidazolidin-1-yl)piperidine-1-carboxamide
(3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one (49 mg, 0.146 mmol) (Y.-J. Shi et al., Tetrahedron, 1999, 55, 909-918) and triethylamine (0.020 mL, 0.146 mmol) were added to a solution of p-nitrophenylchloroformate (29 mg, 0.146 mmol) in tetrahydrofuran (5 mL) at 0 oC. After 1 h, 1-piperidin-4-yl-4-pyridin-4-ylimidazolidin-2-one (36 mg, 0.146 mmol) and additional triethylamine (0.040 mL, 0.292 mmol) were added and the reaction warmed to ambient temperature. After 16 h, the reaction was concentrated and partitioned between dichloromethane and saturated sodium bicarbonate. The organics were washed with water, brine, and dried over magnesium sulfate. Purification by silica gel chromatography (100% dichloromethane→15% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (36 mg). MS 606.2 (M+1)

reactant | (3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.146 mmol, 49 mg | N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C17H14F3N3O
reactant | triethylamine | 0.146 mmol, 0.020 mL | C(C)N(CC)CC | C6H15N
reactant | 1-piperidin-4-yl-4-pyridin-4-ylimidazolidin-2-one | 0.146 mmol, 36 mg | N1CCC(CC1)N1C(NC(C1)C1=CC=NC=C1)=O | C13H18N4O
reactant | triethylamine | 0.292 mmol, 0.040 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]-4-(2-oxo-4-pyridin-4-ylimidazolidin-1-yl)piperidine-1-carboxamide | 36 mg | O=C1N(C2=C(C(=N[C@H]1NC(=O)N1CCC(CC1)N1C(NC(C1)C1=CC=NC=C1)=O)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F | C31H30F3N7O3
